US07196100B2
4-(Piperidin-4-yloxy)-benzamide hydrochloride
Add hydrochloric acid (4M in dioxane, 3 mL) dropwise to a solution of 4-(4-carbamoyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (228 mg, 0.711 mmol) in THF (2 mL). Stir at room temperature for 7 hours (h). Filter the solids and dry under reduced pressure to give the title compound (180 mg, 99%) as hydrochloride.

reactant | hydrochloric acid | 4M, 3 mL | Cl | ClH
reactant | 4-(4-carbamoyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.711 mmol, 228 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C(N)=O | C17H24N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(Piperidin-4-yloxy)-benzamide hydrochloride | 180 mg, 99% | Cl.N1CCC(CC1)OC1=CC=C(C(=O)N)C=C1 | InChI=1S/C12H16N2O2.ClH/c13-12(15)9-1-3-10(4-2-9)16-11-5-7-14-8-6-11;/h1-4,11,14H,5-8H2,(H2,13,15);1H
